US03994954
N-(β,β,β-Trichloroethoxycarbonyl)-2-(4-methoxyphenyl)glycine n-butyl ester
A solution of 0.91 g. (3.0 mmol.) of N-(β,β,β-trichloroethoxycarbonyl)-2-acetoxyglycine n-butyl ester and 0.3 g. (2.8 mmol.) of anisole in 20 ml. of methylene chloride containing two drops of boron trifluoride etherate was maintained at 25° for 5 hours. The solvent was then evaporated in vacuo and 2:1 hexane-methylene chloride was added. Chromatography on silica gel with methylene chloride containing increasing amounts of ethyl acetate gave the title compound.

reactant | N-(β,β,β-trichloroethoxycarbonyl)-2-acetoxyglycine n-butyl ester | 3.0 mmol | C(CCC)OC(C(NC(=O)OCC(Cl)(Cl)Cl)OC(C)=O)=O | C11H16Cl3NO6
reactant | anisole | 2.8 mmol | C1(=CC=CC=C1)OC | C7H8O
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
catalyst | methylene chloride | two drops | C(Cl)Cl | CH2Cl2
product | N-(β,β,β-Trichloroethoxycarbonyl)-2-(4-methoxyphenyl)glycine n-butyl ester | C(CCC)OC(C(NC(=O)OCC(Cl)(Cl)Cl)C1=CC=C(C=C1)OC)=O | C16H20Cl3NO5
